US05068342
2-(Mercaptomethyl)naphthalene
Utilizing the procedure of G. G. Urquhart, J. W. Gates and R. Conner, Org. Syn. Coll. Vol. 3, p. 363, thiourea (6.89 g, 90.5 mmol) was added to a solution of 2-(bromomethyl)naphthalene (20.6 g, 90.5 mmol) in anhydrous ethanol (100 mL) and then heated at reflux. After 17 h, the reaction solution was concentrated to an oil. The oil was dissolved in a solution of potassium hydroxide (11.2 g, 199 mmol) in water (100 mL) and heated at reflux for 2 h. The solution was then cooled to 25° C. and treated with aqueous hydrochloric acid (2.0N). The resulting aqueous mixture was extracted with ethyl acetate (3×). The combined ethyl acetate extracts were dried over magnesium sulfate, filtered and evaporated to give yellow crystals (14.5 g, 91.9% yield).

reactant | thiourea | 90.5 mmol, 6.89 g | NC(=S)N | CH4N2S
reactant | 2-(bromomethyl)naphthalene | 90.5 mmol, 20.6 g | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
reactant | potassium hydroxide | 199 mmol, 11.2 g | [OH-].[K+]
reactant | hydrochloric acid | 2.0N | Cl | ClH
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | water | 100 mL | O | H2O
product | 2-(Mercaptomethyl)naphthalene | 14.5 g, 91.9% yield | SCC1=CC2=CC=CC=C2C=C1 | C11H10S
